US07238716B2
A mixture of diethyl 2-[3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzyl]malonate (0.70 g), a 4N aqueous potassium hydroxide solution (10 mL), tetrahydrofuran (20 mL) and ethanol (20 mL) was stirred at 60° C. for 1 hr. The reaction mixture was concentrated and water was added to the residue. The mixture was neutralized with 2N hydrochloric acid, and the precipitated crystals were collected by filtration. The obtained crystals were dissolved in pyridine (40 mL) and this mixture was stirred with heating under reflux for 1 hr. The reaction mixture was concentrated, 2N hydrochloric acid was added to the mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated to give crystals (0.44 g, yield 77%) of 3-[3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]phenyl]propionic acid. Recrystallization from acetone-hexane gave colorless prism crystals. melting point: 120-121° C.

reactant | diethyl 2-[3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzyl]malonate | 0.70 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CSC=2C=C(CC(C(=O)OCC)C(=O)OCC)C=CC2)C=CC1 | C32H33NO6S
reactant | potassium hydroxide | 4N, 10 mL | [OH-].[K+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-[3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]phenyl]propionic acid | 0.44 g, yield 77% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CSC=2C=C(C=CC2)CCC(=O)O)C=CC1 | C27H25NO4S
